US06620830B2
3,5-Dichloro-4-(3-isopropyl-4-methoxy-phenoxy)-benzoic acid ethyl ester
The title compound was prepared from bis-(3-isopropyl-4-methoxy-phenyl)-iodonium tetrafluoroborate and 3,5-dichloro-4-hydroxy-benzoic acid ethyl ester in the presence of copper bronze and triethylamine by the methodologies described in Med. Chem., 38, 695-707 (1995). MS (APCl+) Calc.: 382.1, Found: 383.0 (M+1).

reactant | bis-(3-isopropyl-4-methoxy-phenyl)-iodonium tetrafluoroborate | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
reactant | 3,5-dichloro-4-hydroxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Cl)O)Cl)=O | C9H8Cl2O3
catalyst | copper bronze | [Cu] | Cu
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,5-Dichloro-4-(3-isopropyl-4-methoxy-phenoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)C)Cl)=O | C19H20Cl2O4
